US07943669B2
Step A: {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethylphenoxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from {4-[3-Bromo-5-(3-trifluoromethyl-phenoxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (230 mg; 0.43 mmol) and 4-prop-2-ynyl-morpholine (159.5 mg; 1.28 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method A). Yield: 160 mg. HPLC-MS: m/z: 586.5 (M+H)+; Rt: 2.18 min

reactant | {4-[3-Bromo-5-(3-trifluoromethyl-phenoxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.43 mmol, 230 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4S
reactant | 4-prop-2-ynyl-morpholine | 1.28 mmol, 159.5 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethylphenoxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C#CCN1CCOCC1)C)=O | C31H30F3NO5S
